US05286869
(E)-3-[4-(1-imidazolylmethyl)phenyl]-2-propen-1-yl methyl 1,4-dihydro-2,6-dimethyl-4-(2,3-dichlorophenyl)pyridine-3,5-dicarboxylate:
356 mg (1 mM) of 1,4-dihydro-2,6-dimethyl-5-methoxycarbonyl-4-(2,3-dichlorophenyl)pyridine-3-carboxylic acid together with 215 mg (1 mM) of (E)-3-[4-(1-imidazolylmethyl)phenyl]-2-propen-1-ol, 248 mg (1.2 mM) of dicyclohexyl-carbodiimide and 134 mg (1.1 mM) of 4-N,N-dimethylamino-pyridine were dissolved in 5 ml of toluene, while heating, and refluxed for six hours. The solution was cooled to room temperature, and the crystals produced were filtered off. The filtrate was washed with water and dried over anhydrous sodium sulfate. After the solvent was distilled away, the residue was purified by chromatography on a silica gel column, whereby the captioned compound was obtained. The yield was 481 mg (87%).

reactant | 1,4-dihydro-2,6-dimethyl-5-methoxycarbonyl-4-(2,3-dichlorophenyl)pyridine-3-carboxylic acid | 1 mM, 356 mg | CC=1NC(=C(C(C1C(=O)O)C1=C(C(=CC=C1)Cl)Cl)C(=O)OC)C | C16H15Cl2NO4
reactant | (E)-3-[4-(1-imidazolylmethyl)phenyl]-2-propen-1-ol | 1 mM, 215 mg | N1C(=NC=C1)CC1=CC=C(C=C1)/C=C/CO | C13H14N2O
reactant | dicyclohexyl-carbodiimide | 1.2 mM, 248 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-3-[4-(1-imidazolylmethyl)phenyl]-2-propen-1-yl methyl 1,4-dihydro-2,6-dimethyl-4-(2,3-dichlorophenyl)pyridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OC\C=C\C1=CC=C(C=C1)CC=1NC=CN1)C1=C(C(=CC=C1)Cl)Cl)C(=O)OC)C | C29H27Cl2N3O4
